US09353081B2
(rac)-N-(4-Bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)ethanesulfonamide
In analogy to the procedure described for the preparation of example 4, (rac)-4-bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-amine (intermediate A-3 [C]) and ethanesulfonyl chloride gave the title compound as a grey solid in 94% yield. MS: 304.99 (M+H+, 1Br).

reactant | (rac)-4-bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-amine | BrC=1C2=C(C=NC1)C(CC2)N | C8H9BrN2
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | (rac)-N-(4-Bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)ethanesulfonamide | 94% yield | BrC=1C2=C(C=NC1)C(CC2)NS(=O)(=O)CC | C10H13BrN2O2S
